US04001199
b. Preparation of Arg-Pro-Phe-Phe-Tyr-NH2
In 30 ml. of acetic acid was dissolved 500 mg. of Z-Arg(NO2)-Pro-Phe-Phe-Tyr-NH2, and catalytic reduction was carried out with Pd-black as a catalyst for 20 hours. The catalyst was filtered off and the filtrate was concentrated to dryness under reduced pressure. The residue was dissolved in 50 ml. of water and, after the small amounts of insolubles were filtered off, the filtrate was lyophilized. The product was dissolved in 5 ml. of water and the solution was applied on a column (1.8 × 9 cm) of carboxymethyl-sephadex. Gradient elution was carried out with 0.1M aqueous ammonium acetate (400 ml.) and 1M aqueous ammonium acetate (400 ml.). The fractions from 250 ml. to 370 ml. were pooled and lyophilized to yield 250 mg. (52.3 %) of a white fluffy product. [α]D24 -41.9° (c=0.47 %, water). Amino acid analysis (hydrolysis with HCl): Arg, 1.00;Pro, 1.05; Tyr, 0.91; Phe, 1.96;(peptide content 86.5 %).

reactant | Z-Arg(NO2)-Pro-Phe-Phe-Tyr-NH2 | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C46H54N10O10
reactant | HCl | Cl | ClH
reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
catalyst | Pd | [Pd] | Pd
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Arg-Pro-Phe-Phe-Tyr-NH2 | N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)N)CCC1 | C38H49N9O6
